### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Splits): remove the `RingHom` argument of `Splits`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---
[Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Generalizing.20.60Polynomial.2ESplits.60.20to.20rings)

I used python to assist making this PR: automated replacing every `Splits f p` with `Splits (p.map f)`, and every `p.Splits f` with `(p.map f).Splits`.
I then manually fixed a few issues with the automatic replacements:
- Lines that surpassed 100 characters
- A few places that defined the polynomial in-line (using `X`) couldn't use dot notation for `map`
- There's a single usage of the full name `Polynomial.Splits` that I changed manually

There are 4 changes which aren't formulaic: 3a44ea12cb72162eca6f10535cb986d64f5b0811 a66d6c30005e638b35a22373154b370ddcf4b8ca 877f3f48b1b41786d00974bcc42c7579f39ac585 1ae00779c8188ec057ac89f595eb522c5906837e

Personally I prefer swapping any `(p.map (...))` with `(p.map <| ...)` and `p.map (RingHom.id ...)` with `p.map (.id ...)`, but I didn't want to force style choices over that many places, if you're for it then let me know.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
@tb65536 Fixed 👍

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 1]
```diff
@@ -40,80 +40,82 @@ variable (i : K →+* L)
...
+theorem splits_of_degree_eq_one {f : K[X]} (hf : degree f = 1) : Splits (f.map i) :=
   splits_of_degree_le_one i hf.le
 
-theorem splits_of_natDegree_le_one {f : K[X]} (hf : natDegree f ≤ 1) : Splits i f :=
+theorem splits_of_natDegree_le_one {f : K[X]} (hf : natDegree f ≤ 1) : Splits (f.map i) :=
   splits_of_degree_le_one i (degree_le_of_natDegree_le hf)
 
-theorem splits_of_natDegree_eq_one {f : K[X]} (hf : natDegree f = 1) : Splits i f :=
+theorem splits_of_natDegree_eq_one {f : K[X]} (hf : natDegree f = 1) : Splits (f.map i) :=
   splits_of_natDegree_le_one i (le_of_eq hf)
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:69]: Since these do not mention `i` in the hypotheses, they should have conclusion `Splits f`, right?

Comment (Vierkantor) [reply Mathlib/Algebra/Polynomial/Splits.lean:69]: Or do we do this in follow-ups?

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean [hunk 2]
```diff
@@ -132,14 +132,14 @@ section Field
 variable {K : Type*} [Field K]
 
 /-- `cyclotomic' n K` splits. -/
-theorem cyclotomic'_splits (n : ℕ) : Splits (RingHom.id K) (cyclotomic' n K) := by
+theorem cyclotomic'_splits (n : ℕ) : Splits ((cyclotomic' n K).map (RingHom.id K)) := by
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean:135]:
```suggestion
theorem cyclotomic'_splits (n : ℕ) : Splits (cyclotomic' n K) := by
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean [hunk 3]
```diff
@@ -132,14 +132,14 @@ section Field
...
   apply splits_prod (RingHom.id K)
   intro z _
   simp only [splits_X_sub_C (RingHom.id K)]
 
 /-- If there is a primitive `n`-th root of unity in `K`, then `X ^ n - 1` splits. -/
 theorem X_pow_sub_one_splits {ζ : K} {n : ℕ} (h : IsPrimitiveRoot ζ n) :
-    Splits (RingHom.id K) (X ^ n - C (1 : K)) := by
+    Splits ((X ^ n - C (1 : K)).map (RingHom.id K)) := by
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean:142]:
```suggestion
    Splits (X ^ n - C (1 : K)) := by
```

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean [hunk 4]
```diff
@@ -73,13 +73,13 @@ theorem mem_spectrum_iff_isRoot_charpoly {r : K} : r ∈ spectrum K A ↔ IsRoot
   simp [eval_charpoly, spectrum.mem_iff, isUnit_iff_isUnit_det, algebraMap_eq_diagonal,
     Pi.algebraMap_def]
 
-theorem det_eq_prod_roots_charpoly_of_splits (hAps : A.charpoly.Splits (RingHom.id K)) :
+theorem det_eq_prod_roots_charpoly_of_splits (hAps : (A.charpoly.map (RingHom.id K)).Splits) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean:76]:
```suggestion
theorem det_eq_prod_roots_charpoly_of_splits (hAps : A.charpoly.Splits) :
```

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean [hunk 5]
```diff
@@ -73,13 +73,13 @@ theorem mem_spectrum_iff_isRoot_charpoly {r : K} : r ∈ spectrum K A ↔ IsRoot
...
     A.det = (Matrix.charpoly A).roots.prod := by
   rw [det_eq_sign_charpoly_coeff, ← charpoly_natDegree_eq_dim A,
     Polynomial.coeff_zero_eq_prod_roots_of_monic_of_splits A.charpoly_monic hAps, ← mul_assoc,
     ← pow_two, pow_right_comm, neg_one_sq, one_pow, one_mul]
 
-theorem trace_eq_sum_roots_charpoly_of_splits (hAps : A.charpoly.Splits (RingHom.id K)) :
+theorem trace_eq_sum_roots_charpoly_of_splits (hAps : (A.charpoly.map (RingHom.id K)).Splits) :
```
Comment (Vierkantor) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Eigs.lean:82]:
```suggestion
theorem trace_eq_sum_roots_charpoly_of_splits (hAps : A.charpoly.Splits) :
```

File: Mathlib/FieldTheory/SplittingField/IsSplittingField.lean [hunk 6]
```diff
@@ -83,7 +83,7 @@ theorem splits_iff (f : K[X]) [IsSplittingField K L f] :
         exact splits_comp_of_splits _ _ (splits L f)⟩
 
 theorem IsScalarTower.splits (f : F[X]) [IsSplittingField K L (mapAlg F K f)] :
-    Splits (RingHom.id L) (mapAlg F L f) := by
+    Splits ((mapAlg F L f).map (RingHom.id L)) := by
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/SplittingField/IsSplittingField.lean:86]:
```suggestion
    Splits (mapAlg F L f) := by
```

File: Mathlib/FieldTheory/SplittingField/IsSplittingField.lean [hunk 7]
```diff
@@ -67,7 +67,7 @@ instance map (f : F[X]) [IsSplittingField F L f] : IsSplittingField K L (f.map <
       exact fun x hx => @Algebra.subset_adjoin K _ _ _ _ _ _ hx⟩
 
 theorem splits_iff (f : K[X]) [IsSplittingField K L f] :
-    Splits (RingHom.id K) f ↔ (⊤ : Subalgebra K L) = ⊥ :=
+    Splits (f.map (RingHom.id K)) ↔ (⊤ : Subalgebra K L) = ⊥ :=
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/SplittingField/IsSplittingField.lean:70]:
```suggestion
    Splits f.map ↔ (⊤ : Subalgebra K L) = ⊥ :=
```

File: Mathlib/FieldTheory/SeparableDegree.lean [hunk 8]
```diff
@@ -552,7 +552,7 @@ alias natSepDegree_eq_one_iff_of_irreducible := Irreducible.natSepDegree_eq_one_
 /-- If a monic polynomial of separable degree one splits, then it is of form `(X - C y) ^ m` for
 some non-zero natural number `m` and some element `y` of `F`. -/
 theorem eq_X_sub_C_pow_of_natSepDegree_eq_one_of_splits (hm : f.Monic)
-    (hs : f.Splits (RingHom.id F))
+    (hs : (f.map (RingHom.id F)).Splits)
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/SeparableDegree.lean:555]:
```suggestion
    (hs : f.Splits)
```

File: Mathlib/FieldTheory/Separable.lean [hunk 9]
```diff
@@ -445,14 +445,14 @@ theorem X_pow_sub_one_separable_iff {n : ℕ} : (X ^ n - 1 : F[X]).Separable ↔
...
-    (hsplit : Splits (algebraMap F K) p) : Fintype.card (p.rootSet K) = p.natDegree := by
+    (hsplit : Splits (p.map (algebraMap F K))) : Fintype.card (p.rootSet K) = p.natDegree := by
   classical
   simp_rw [rootSet_def, Finset.coe_sort_coe, Fintype.card_coe]
   rw [Multiset.toFinset_card_of_nodup (nodup_roots hsep.map), ← natDegree_eq_card_roots hsplit]
 
 /-- If a non-zero polynomial splits, then it has no repeated roots on that field
 if and only if it is separable. -/
-theorem nodup_roots_iff_of_splits {f : F[X]} (hf : f ≠ 0) (h : f.Splits (RingHom.id F)) :
+theorem nodup_roots_iff_of_splits {f : F[X]} (hf : f ≠ 0) (h : (f.map (RingHom.id F)).Splits) :
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Separable.lean:455]:
```suggestion
theorem nodup_roots_iff_of_splits {f : F[X]} (hf : f ≠ 0) (h : f.Splits) :
```

File: Mathlib/FieldTheory/PolynomialGaloisGroup.lean [hunk 10]
```diff
@@ -66,7 +66,7 @@ theorem ext {σ τ : p.Gal} (h : ∀ x ∈ p.rootSet p.SplittingField, σ x = τ
   rwa [eq_top_iff, ← SplittingField.adjoin_rootSet, Algebra.adjoin_le_iff]
 
 /-- If `p` splits in `F` then the `p.gal` is trivial. -/
-def uniqueGalOfSplits (h : p.Splits (RingHom.id F)) : Unique p.Gal where
+def uniqueGalOfSplits (h : (p.map (RingHom.id F)).Splits) : Unique p.Gal where
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/PolynomialGaloisGroup.lean:69]:
```suggestion
def uniqueGalOfSplits (h : (p.Splits) : Unique p.Gal where
```

File: Mathlib/FieldTheory/KummerExtension.lean [hunk 11]
```diff
@@ -53,11 +53,10 @@ section Splits
 
 theorem X_pow_sub_C_splits_of_isPrimitiveRoot
     {n : ℕ} {ζ : K} (hζ : IsPrimitiveRoot ζ n) {α a : K} (e : α ^ n = a) :
-    (X ^ n - C a).Splits (RingHom.id _) := by
+    ((X ^ n - C a).map (RingHom.id _)).Splits := by
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/KummerExtension.lean:56]:
```suggestion
    (X ^ n - C a).Splits := by
```

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 12]
```diff
@@ -68,7 +68,7 @@ instance IsSepClosed.of_isAlgClosed [IsAlgClosed k] : IsSepClosed k :=
 variable {k} {K}
 
 theorem IsSepClosed.splits_of_separable [IsSepClosed k] (p : k[X]) (hp : p.Separable) :
-    p.Splits (RingHom.id k) :=
+    (p.map (RingHom.id k)).Splits :=
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/IsSepClosed.lean:71]:
```suggestion
    p.Splits :=
```

File: Mathlib/FieldTheory/PolynomialGaloisGroup.lean [hunk 13]
```diff
@@ -75,17 +75,17 @@ def uniqueGalOfSplits (h : p.Splits (RingHom.id F)) : Unique p.Gal where
           ((SetLike.ext_iff.mp ((IsSplittingField.splits_iff _ p).mp h) x).mp Algebra.mem_top)
       rw [AlgEquiv.commutes, AlgEquiv.commutes]
 
-instance [h : Fact (p.Splits (RingHom.id F))] : Unique p.Gal :=
+instance [h : Fact ((p.map (RingHom.id F)).Splits)] : Unique p.Gal :=
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/PolynomialGaloisGroup.lean:78]:
```suggestion
instance [h : Fact (p.Splits] : Unique p.Gal :=
```

File: Mathlib/FieldTheory/IsSepClosed.lean [hunk 14]
```diff
@@ -77,16 +77,16 @@ separably closed.
...
+  convert IsSepClosed.splits_of_separable (p.map f) (Separable.map h); simp
 
 /-- Every separable polynomial splits in the field extension `f : k →+* K` if `k` is
 separably closed.
 
 See also `IsSepClosed.splits_codomain` for the case where `k` is separably closed.
 -/
 theorem IsSepClosed.splits_domain [IsSepClosed k] {f : k →+* K}
-    (p : k[X]) (h : p.Separable) : p.Splits f :=
+    (p : k[X]) (h : p.Separable) : (p.map f).Splits :=
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/IsSepClosed.lean:89]: These two do not really do anything with `f`/`K` so we should replace `p.map f` with `p`.

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 15]
```diff
@@ -64,22 +64,22 @@ class IsAlgClosed : Prop where
...
-    (p : k[X]) : p.Splits f :=
+    (p : k[X]) : (p.map f).Splits :=
   (IsAlgClosed.factors p).map f
 
 namespace IsAlgClosed
 
 variable {k}
 
-theorem splits [IsAlgClosed k] (p : k[X]) : p.Splits (RingHom.id k) :=
+theorem splits [IsAlgClosed k] (p : k[X]) : (p.map (RingHom.id k)).Splits :=
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean:82]:
```suggestion
theorem splits [IsAlgClosed k] (p : k[X]) : p.Splits :=
```

File: Mathlib/FieldTheory/IsAlgClosed/Basic.lean [hunk 16]
```diff
@@ -64,22 +64,22 @@ class IsAlgClosed : Prop where
...
   IsAlgClosed.factors (p.map f)
 
 /-- Every polynomial splits in the field extension `f : K →+* k` if `K` is algebraically closed.
 
 See also `IsAlgClosed.splits_codomain` for the case where `k` is algebraically closed.
 -/
 theorem IsAlgClosed.splits_domain {k K : Type*} [Field k] [IsAlgClosed k] [Field K] {f : k →+* K}
-    (p : k[X]) : p.Splits f :=
+    (p : k[X]) : (p.map f).Splits :=
   (IsAlgClosed.factors p).map f
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/IsAlgClosed/Basic.lean:76]: These two can be deprecated and replaced with `splits`/`factors` + `Splits.map`.

File: Mathlib/FieldTheory/Finite/GaloisField.lean [hunk 17]
```diff
@@ -129,7 +129,7 @@ theorem card (h : n ≠ 0) : Nat.card (GaloisField p n) = p ^ n := by
   rw [Nat.card_eq_fintype_card, Module.card_fintype b, ← Module.finrank_eq_card_basis b,
     ZMod.card, finrank p h]
 
-theorem splits_zmod_X_pow_sub_X : Splits (RingHom.id (ZMod p)) (X ^ p - X) := by
+theorem splits_zmod_X_pow_sub_X : Splits (map (RingHom.id (ZMod p)) (X ^ p - X)) := by
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Finite/GaloisField.lean:132]:
```suggestion
theorem splits_zmod_X_pow_sub_X : Splits (X ^ p - X) := by
```

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 18]
```diff
@@ -731,7 +731,7 @@ theorem Subfield.roots_X_pow_char_sub_X_bot :
   exact FiniteField.roots_X_pow_card_sub_X _
 
 theorem Subfield.splits_bot :
-    Splits (RingHom.id (⊥ : Subfield F)) (X ^ p - X) := by
+    Splits (Polynomial.map (RingHom.id (⊥ : Subfield F)) (X ^ p - X)) := by
```
Comment (Vierkantor) [inline Mathlib/FieldTheory/Finite/Basic.lean:734]:
```suggestion
    Splits (X ^ p - X) := by
```

File: Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean [hunk 19]
```diff
@@ -949,7 +949,7 @@ theorem spectralNorm_pow_natDegree_eq_prod_roots (x : L) {E : Type*} [Field E] [
 theorem spectralNorm_eq_norm_coeff_zero_rpow (x : L) :
     spectralNorm K L x = ‖(minpoly K x).coeff 0‖ ^ (1 / (minpoly K x).natDegree : ℝ) := by
   set E := (mapAlg K L (minpoly K x)).SplittingField
-  have hspl : Splits (RingHom.id E) (mapAlg K E (minpoly K x)) :=
+  have hspl : Splits ((mapAlg K E (minpoly K x)).map (RingHom.id E)) :=
```
Comment (Vierkantor) [inline Mathlib/Analysis/Normed/Unbundled/SpectralNorm.lean:952]:
```suggestion
  have hspl : Splits (mapAlg K E (minpoly K x)) :=
```

File: Mathlib/Analysis/Matrix/Spectrum.lean [hunk 20]
```diff
@@ -180,7 +180,7 @@ lemma eigenvalues_eq_eigenvalues_iff :
   · suffices hA.eigenvalues₀ = hB.eigenvalues₀ by unfold eigenvalues; rw [this]
     simp_rw [← List.ofFn_inj, ← sort_roots_charpoly_eq_eigenvalues₀, h]
 
-theorem splits_charpoly (hA : A.IsHermitian) : A.charpoly.Splits (RingHom.id 𝕜) :=
+theorem splits_charpoly (hA : A.IsHermitian) : (A.charpoly.map (RingHom.id 𝕜)).Splits :=
```
Comment (Vierkantor) [inline Mathlib/Analysis/Matrix/Spectrum.lean:183]:
```suggestion
theorem splits_charpoly (hA : A.IsHermitian) : A.charpoly.Splits :=
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 21]
```diff
@@ -524,18 +527,18 @@ theorem coeff_zero_eq_leadingCoeff_mul_prod_roots_of_splits {P : K[X]} (hP : P.S
...
+theorem nextCoeff_eq_neg_sum_roots_mul_leadingCoeff_of_splits {P : K[X]}
+    (hP : (P.map <| .id K).Splits) : P.nextCoeff = -P.leadingCoeff * P.roots.sum := by
   nth_rw 1 [eq_prod_roots_of_splits_id hP]
   simp [Multiset.sum_map_neg', monic_X_sub_C, Monic.nextCoeff_multiset_prod]
 
 /-- If `P` is a monic polynomial that splits, then `P.nextCoeff` equals the negative of the sum
 of the roots. -/
 theorem nextCoeff_eq_neg_sum_roots_of_monic_of_splits {P : K[X]} (hmo : P.Monic)
-    (hP : P.Splits (RingHom.id K)) : P.nextCoeff = -P.roots.sum := by
+    (hP : (P.map (RingHom.id K)).Splits) : P.nextCoeff = -P.roots.sum := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:541]:
```suggestion
    (hP : P.Splits) : P.nextCoeff = -P.roots.sum := by
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 22]
```diff
@@ -524,18 +527,18 @@ theorem coeff_zero_eq_leadingCoeff_mul_prod_roots_of_splits {P : K[X]} (hP : P.S
...
 /-- If `P` is a monic polynomial that splits, then `coeff P 0` equals the product of the roots. -/
 theorem coeff_zero_eq_prod_roots_of_monic_of_splits {P : K[X]} (hmo : P.Monic)
-    (hP : P.Splits (RingHom.id K)) : coeff P 0 = (-1) ^ P.natDegree * P.roots.prod := by
+    (hP : (P.map (RingHom.id K)).Splits) : coeff P 0 = (-1) ^ P.natDegree * P.roots.prod := by
   simp [hmo, coeff_zero_eq_leadingCoeff_mul_prod_roots_of_splits hP]
 
-theorem nextCoeff_eq_neg_sum_roots_mul_leadingCoeff_of_splits {P : K[X]} (hP : P.Splits <| .id K) :
-    P.nextCoeff = -P.leadingCoeff * P.roots.sum := by
+theorem nextCoeff_eq_neg_sum_roots_mul_leadingCoeff_of_splits {P : K[X]}
+    (hP : (P.map <| .id K).Splits) : P.nextCoeff = -P.leadingCoeff * P.roots.sum := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:534]:
```suggestion
    (hP : P.Splits) : P.nextCoeff = -P.leadingCoeff * P.roots.sum := by
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 23]
```diff
@@ -524,18 +527,18 @@ theorem coeff_zero_eq_leadingCoeff_mul_prod_roots_of_splits {P : K[X]} (hP : P.S
 
 /-- If `P` is a monic polynomial that splits, then `coeff P 0` equals the product of the roots. -/
 theorem coeff_zero_eq_prod_roots_of_monic_of_splits {P : K[X]} (hmo : P.Monic)
-    (hP : P.Splits (RingHom.id K)) : coeff P 0 = (-1) ^ P.natDegree * P.roots.prod := by
+    (hP : (P.map (RingHom.id K)).Splits) : coeff P 0 = (-1) ^ P.natDegree * P.roots.prod := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:530]:
```suggestion
    (hP : P.Splits) : coeff P 0 = (-1) ^ P.natDegree * P.roots.prod := by
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 24]
```diff
@@ -510,12 +512,13 @@ theorem eval_derivative_eq_eval_mul_sum_of_splits {p : K[X]} {x : K}
...
 theorem eval_derivative_div_eval_of_ne_zero_of_splits {p : K[X]} {x : K}
-    (h : p.Splits (.id K)) (hx : p.eval x ≠ 0) :
+    (h : (p.map (.id K)).Splits) (hx : p.eval x ≠ 0) :
     p.derivative.eval x / p.eval x = (p.roots.map fun z ↦ 1 / (x - z)).sum := by
   rw [eval_derivative_eq_eval_mul_sum_of_splits h hx]
   exact mul_div_cancel_left₀ _ hx
 
-theorem coeff_zero_eq_leadingCoeff_mul_prod_roots_of_splits {P : K[X]} (hP : P.Splits <| .id K) :
+theorem coeff_zero_eq_leadingCoeff_mul_prod_roots_of_splits {P : K[X]}
+    (hP : (P.map <| .id K).Splits) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:521]:
```suggestion
    (hP : P.Splits) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 25]
```diff
@@ -510,12 +512,13 @@ theorem eval_derivative_eq_eval_mul_sum_of_splits {p : K[X]} {x : K}
   aesop (add simp sub_eq_zero)
 
 theorem eval_derivative_div_eval_of_ne_zero_of_splits {p : K[X]} {x : K}
-    (h : p.Splits (.id K)) (hx : p.eval x ≠ 0) :
+    (h : (p.map (.id K)).Splits) (hx : p.eval x ≠ 0) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:515]:
```suggestion
    (h : p.Splits) (hx : p.eval x ≠ 0) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 26]
```diff
@@ -497,7 +499,7 @@ theorem aeval_root_derivative_of_splits [Algebra K L] [DecidableEq L] {P : K[X]}
   rw [eval_multiset_prod_X_sub_C_derivative hr]
 
 theorem eval_derivative_eq_eval_mul_sum_of_splits {p : K[X]} {x : K}
-    (h : p.Splits (.id K)) (hx : p.eval x ≠ 0) :
+    (h : (p.map (.id K)).Splits) (hx : p.eval x ≠ 0) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:502]:
```suggestion
    (h : p.Splits) (hx : p.eval x ≠ 0) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 27]
```diff
@@ -474,12 +476,12 @@ theorem eval₂_derivative_of_splits [DecidableEq L] {P : K[X]} {f : K →+* L}
...
 
 theorem aeval_derivative_of_splits [Algebra K L] [DecidableEq L] {P : K[X]}
-    (hP : P.Splits (algebraMap K L)) (r : L) :
+    (hP : (P.map (algebraMap K L)).Splits) (r : L) :
     aeval r P.derivative = algebraMap K L P.leadingCoeff *
       ((P.aroots L).map fun a ↦ (((P.aroots L).erase a).map (r - ·)).prod).sum :=
   eval₂_derivative_of_splits hP r
 
-theorem eval_derivative_of_splits [DecidableEq K] {P : K[X]} (hP : P.Splits (.id K)) (r : K) :
+theorem eval_derivative_of_splits [DecidableEq K] {P : K[X]} (hP : (P.map (.id K)).Splits) (r : K) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:484]:
```suggestion
theorem eval_derivative_of_splits [DecidableEq K] {P : K[X]} (hP : P.Splits) (r : K) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 28]
```diff
@@ -434,28 +436,28 @@ theorem splits_of_comp (j : L →+* F) {f : K[X]} (h : Splits (j.comp i) f)
...
 variable (L) in
 theorem splits_of_isScalarTower {f : R[X]} [Algebra K L] [IsScalarTower R K L]
-    (h : Splits (algebraMap R K) f) : Splits (algebraMap R L) f :=
+    (h : Splits (f.map (algebraMap R K))) : Splits (f.map (algebraMap R L)) :=
   splits_of_algHom h (IsScalarTower.toAlgHom R K L)
 
 /-- A polynomial splits if and only if it has as many roots as its degree. -/
 theorem splits_iff_card_roots {p : K[X]} :
-    Splits (RingHom.id K) p ↔ Multiset.card p.roots = p.natDegree := by
+    Splits (p.map (RingHom.id K)) ↔ Multiset.card p.roots = p.natDegree := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:460]:
```suggestion
    Splits p ↔ Multiset.card p.roots = p.natDegree := by
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 29]
```diff
@@ -434,28 +436,28 @@ theorem splits_of_comp (j : L →+* F) {f : K[X]} (h : Splits (j.comp i) f)
     map_C, map_X, lift_eq, Multiset.pmap_eq_map]
   rfl
 
-theorem splits_id_of_splits {f : K[X]} (h : Splits i f)
-    (roots_mem_range : ∀ a ∈ (f.map i).roots, a ∈ i.range) : Splits (RingHom.id K) f :=
+theorem splits_id_of_splits {f : K[X]} (h : Splits (f.map i))
+    (roots_mem_range : ∀ a ∈ (f.map i).roots, a ∈ i.range) : Splits (f.map (RingHom.id K)) :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:440]:
```suggestion
    (roots_mem_range : ∀ a ∈ (f.map i).roots, a ∈ i.range) : Splits f :=
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 30]
```diff
@@ -410,22 +412,22 @@ local infixl:50 " ~ᵤ " => Associated
 open UniqueFactorizationMonoid Associates
 
 theorem splits_of_exists_multiset {f : K[X]} {s : Multiset L}
-    (hs : f.map i = C (i f.leadingCoeff) * (s.map fun a : L => X - C a).prod) : Splits i f :=
+    (hs : f.map i = C (i f.leadingCoeff) * (s.map fun a : L => X - C a).prod) : Splits (f.map i) :=
   factors_iff_exists_multiset.mpr ⟨s, leadingCoeff_map i ▸ hs⟩
 
-theorem splits_of_splits_id {f : K[X]} (h : Splits (RingHom.id K) f) : Splits i f := by
+theorem splits_of_splits_id {f : K[X]} (h : Splits (f.map (RingHom.id K))) : Splits (f.map i) := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:418]:
```suggestion
theorem map {f : K[X]} (h : Splits f) : Splits (f.map i) := by
```

(With a deprecation for `splits_of_splits_id`.)

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 31]
```diff
@@ -388,7 +390,7 @@ theorem mem_lift_of_splits_of_roots_mem_range [Algebra R K] {f : K[X]}
 A polynomial of degree `2` with a root splits.
 -/
 theorem splits_of_natDegree_eq_two {f : Polynomial K} {x : L} (h₁ : f.natDegree = 2)
-    (h₂ : eval₂ i x f = 0) : Splits i f := by
+    (h₂ : eval₂ i x f = 0) : Splits (f.map i) := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:393]: This should get a `eval i x f = 0 -> Splits f` version too, same for `splits_of_degree_eq_two`.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 32]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 
 theorem aeval_eq_prod_aroots_sub_of_monic_of_splits [Algebra K L] {p : K[X]} (m : Monic p)
-    (hsplit : Splits (algebraMap K L) p) (v : L) :
+    (hsplit : Splits (p.map (algebraMap K L))) (v : L) :
     aeval v p = ((p.aroots L).map fun a ↦ v - a).prod := by
   simp [aeval_eq_prod_aroots_sub_of_splits hsplit, m]
 
 theorem eval_eq_prod_roots_sub_of_monic_of_splits_id {p : K[X]} (m : Monic p)
-    (hsplit : Splits (RingHom.id K) p) (v : K) :
+    (hsplit : Splits (p.map (RingHom.id K))) (v : K) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:370]:
```suggestion
    (hsplit : Splits p) (v : K) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 33]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 theorem eval_eq_prod_roots_sub_of_splits_id {p : K[X]}
-    (hsplit : Splits (RingHom.id K) p) (v : K) :
+    (hsplit : Splits (p.map (RingHom.id K))) (v : K) :
     eval v p = p.leadingCoeff * (p.roots.map fun a ↦ v - a).prod := by
   convert aeval_eq_prod_aroots_sub_of_splits hsplit v
   rw [Algebra.algebraMap_self, map_id]
 
 theorem eq_prod_roots_of_monic_of_splits_id {p : K[X]} (m : Monic p)
-    (hsplit : Splits (RingHom.id K) p) : p = (p.roots.map fun a => X - C a).prod := by
+    (hsplit : Splits (p.map (RingHom.id K))) : p = (p.roots.map fun a => X - C a).prod := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:360]:
```suggestion
    (hsplit : Splits p) : p = (p.roots.map fun a => X - C a).prod := by
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 34]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 
 theorem eval_eq_prod_roots_sub_of_monic_of_splits_id {p : K[X]} (m : Monic p)
-    (hsplit : Splits (RingHom.id K) p) (v : K) :
+    (hsplit : Splits (p.map (RingHom.id K))) (v : K) :
     eval v p = (p.roots.map fun a ↦ v - a).prod := by
   simp [eval_eq_prod_roots_sub_of_splits_id hsplit, m]
 
-theorem eq_X_sub_C_of_splits_of_single_root {x : K} {h : K[X]} (h_splits : Splits i h)
+theorem eq_X_sub_C_of_splits_of_single_root {x : K} {h : K[X]} (h_splits : Splits (h.map i))
     (h_roots : (h.map i).roots = {i x}) : h = C h.leadingCoeff * (X - C x) := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:375]: We can get rid of `i` in this statement.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 35]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
   apply Polynomial.map_injective _ i.injective
   rw [eq_prod_roots_of_splits h_splits, h_roots]
   simp
 
 variable (R) in
 theorem mem_lift_of_splits_of_roots_mem_range [Algebra R K] {f : K[X]}
-    (hs : f.Splits (RingHom.id K)) (hm : f.Monic) (hr : ∀ a ∈ f.roots, a ∈ (algebraMap R K).range) :
-    f ∈ Polynomial.lifts (algebraMap R K) := by
+    (hs : (f.map (RingHom.id K)).Splits) (hm : f.Monic)
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:382]:
```suggestion
    (hs : f.Splits) (hm : f.Monic)
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 36]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 theorem aeval_eq_prod_aroots_sub_of_splits [Algebra K L] {p : K[X]}
-    (hsplit : Splits (algebraMap K L) p) (v : L) :
+    (hsplit : Splits (p.map (algebraMap K L))) (v : L) :
     aeval v p = algebraMap K L p.leadingCoeff * ((p.aroots L).map fun a ↦ v - a).prod := by
   rw [← eval_map_algebraMap, eq_prod_roots_of_splits hsplit]
   simp [eval_multiset_prod]
 
 theorem eval_eq_prod_roots_sub_of_splits_id {p : K[X]}
-    (hsplit : Splits (RingHom.id K) p) (v : K) :
+    (hsplit : Splits (p.map (RingHom.id K))) (v : K) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:354]:
```suggestion
    (hsplit : Splits p) (v : K) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 37]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
+theorem Splits.dvd_of_roots_le_roots {p q : K[X]} (hp : (p.map (RingHom.id _)).Splits) (hp0 : p ≠ 0)
     (hq : p.roots ≤ q.roots) : p ∣ q := by
   rw [eq_prod_roots_of_splits_id hp, C_mul_dvd (leadingCoeff_ne_zero.2 hp0)]
   exact dvd_trans
     (Multiset.prod_dvd_prod_of_le (Multiset.map_le_map hq))
     (prod_multiset_X_sub_C_dvd _)
 
 theorem Splits.dvd_iff_roots_le_roots {p q : K[X]}
-    (hp : p.Splits (RingHom.id _)) (hp0 : p ≠ 0) (hq0 : q ≠ 0) :
+    (hp : (p.map (RingHom.id _)).Splits) (hp0 : p ≠ 0) (hq0 : q ≠ 0) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:343]:
```suggestion
    (hp : p.Splits) (hp0 : p ≠ 0) (hq0 : q ≠ 0) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 38]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
   apply C_leadingCoeff_mul_prod_multiset_X_sub_C
   rw [natDegree_map]; exact (natDegree_eq_card_roots hsplit).symm
 
-theorem eq_prod_roots_of_splits_id {p : K[X]} (hsplit : Splits (RingHom.id K) p) :
+theorem eq_prod_roots_of_splits_id {p : K[X]} (hsplit : Splits (p.map (RingHom.id K))) :
     p = C p.leadingCoeff * (p.roots.map fun a => X - C a).prod := by
   simpa using eq_prod_roots_of_splits hsplit
 
-theorem Splits.dvd_of_roots_le_roots {p q : K[X]} (hp : p.Splits (RingHom.id _)) (hp0 : p ≠ 0)
+theorem Splits.dvd_of_roots_le_roots {p q : K[X]} (hp : (p.map (RingHom.id _)).Splits) (hp0 : p ≠ 0)
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:335]:
```suggestion
theorem Splits.dvd_of_roots_le_roots {p q : K[X]} (hp : p.Splits) (hp0 : p ≠ 0)
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 39]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 
-theorem eq_prod_roots_of_splits {p : K[X]} {i : K →+* L} (hsplit : Splits i p) :
+theorem eq_prod_roots_of_splits {p : K[X]} {i : K →+* L} (hsplit : Splits (p.map i)) :
     p.map i = C (i p.leadingCoeff) * ((p.map i).roots.map fun a => X - C a).prod := by
   rw [← leadingCoeff_map]; symm
   apply C_leadingCoeff_mul_prod_multiset_X_sub_C
   rw [natDegree_map]; exact (natDegree_eq_card_roots hsplit).symm
 
-theorem eq_prod_roots_of_splits_id {p : K[X]} (hsplit : Splits (RingHom.id K) p) :
+theorem eq_prod_roots_of_splits_id {p : K[X]} (hsplit : Splits (p.map (RingHom.id K))) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:331]:
```suggestion
theorem eq_prod_roots_of_splits_id {p : K[X]} (hsplit : Splits p :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 40]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 
 theorem adjoin_rootSet_eq_range [Algebra R K] [Algebra R L] {p : R[X]}
-    (h : p.Splits (algebraMap R K)) (f : K →ₐ[R] L) :
+    (h : (p.map (algebraMap R K)).Splits) (f : K →ₐ[R] L) :
     Algebra.adjoin R (p.rootSet L) = f.range ↔ Algebra.adjoin R (p.rootSet K) = ⊤ := by
   rw [← image_rootSet h f, Algebra.adjoin_image, ← Algebra.map_top]
   exact (Subalgebra.map_injective f.toRingHom.injective).eq_iff
 
-theorem eq_prod_roots_of_splits {p : K[X]} {i : K →+* L} (hsplit : Splits i p) :
+theorem eq_prod_roots_of_splits {p : K[X]} {i : K →+* L} (hsplit : Splits (p.map i)) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:325]: We can get rid of `i` in this statement.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 41]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 
-theorem roots_map {f : K[X]} (hf : f.Splits <| RingHom.id K) : (f.map i).roots = f.roots.map i :=
+theorem roots_map {f : K[X]} (hf : (f.map <| .id K).Splits) : (f.map i).roots = f.roots.map i :=
   (roots_map_of_injective_of_card_eq_natDegree i.injective <| by
       convert (natDegree_eq_card_roots hf).symm
       rw [map_id]).symm
 
 theorem Splits.mem_subfield_of_isRoot (F : Subfield K) {f : F[X]} (hnz : f ≠ 0)
-    (hf : Splits (RingHom.id F) f) {x : K} (hx : (f.map F.subtype).IsRoot x) :
+    (hf : Splits (f.map (RingHom.id F))) {x : K} (hx : (f.map F.subtype).IsRoot x) :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:306]:
```suggestion
    (hf : Splits f) {x : K} (hx : (f.map F.subtype).IsRoot x) :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 42]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
   (natDegree_map i).symm.trans <| natDegree_eq_card_roots' hsplit
 
-theorem degree_eq_card_roots {p : K[X]} {i : K →+* L} (p_ne_zero : p ≠ 0) (hsplit : Splits i p) :
-    p.degree = Multiset.card (p.map i).roots := by
+theorem degree_eq_card_roots {p : K[X]} {i : K →+* L} (p_ne_zero : p ≠ 0)
+    (hsplit : Splits (p.map i)) : p.degree = Multiset.card (p.map i).roots := by
   rw [degree_eq_natDegree p_ne_zero, natDegree_eq_card_roots hsplit]
 
-theorem roots_map {f : K[X]} (hf : f.Splits <| RingHom.id K) : (f.map i).roots = f.roots.map i :=
+theorem roots_map {f : K[X]} (hf : (f.map <| .id K).Splits) : (f.map i).roots = f.roots.map i :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:300]:
```suggestion
theorem roots_map {f : K[X]} (hf : f.Splits) : (f.map i).roots = f.roots.map i :=
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 43]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
 
-theorem natDegree_eq_card_roots {p : K[X]} {i : K →+* L} (hsplit : Splits i p) :
+theorem natDegree_eq_card_roots {p : K[X]} {i : K →+* L} (hsplit : Splits (p.map i)) :
     p.natDegree = Multiset.card (p.map i).roots :=
   (natDegree_map i).symm.trans <| natDegree_eq_card_roots' hsplit
 
-theorem degree_eq_card_roots {p : K[X]} {i : K →+* L} (p_ne_zero : p ≠ 0) (hsplit : Splits i p) :
-    p.degree = Multiset.card (p.map i).roots := by
+theorem degree_eq_card_roots {p : K[X]} {i : K →+* L} (p_ne_zero : p ≠ 0)
+    (hsplit : Splits (p.map i)) : p.degree = Multiset.card (p.map i).roots := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:297]: We can get rid of `i` in these two statements.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 44]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
...
     simp
 
-theorem exists_root_of_splits {f : K[X]} (hs : Splits i f) (hf0 : degree f ≠ 0) :
+theorem exists_root_of_splits {f : K[X]} (hs : Splits (f.map i)) (hf0 : degree f ≠ 0) :
     ∃ x, eval₂ i x f = 0 :=
   exists_root_of_splits' i hs ((f.degree_map i).symm ▸ hf0)
 
-theorem roots_ne_zero_of_splits {f : K[X]} (hs : Splits i f) (hf0 : natDegree f ≠ 0) :
+theorem roots_ne_zero_of_splits {f : K[X]} (hs : Splits (f.map i)) (hf0 : natDegree f ≠ 0) :
     (f.map i).roots ≠ 0 :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:275]: We can get rid of `i` in this statement.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 45]
```diff
@@ -257,128 +259,128 @@ theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
   rw [Finset.prod_insert hat, splits_mul_iff i ht.1 (Finset.prod_ne_zero_iff.2 ht.2), ih ht.2]
 
 theorem degree_eq_one_of_irreducible_of_splits {p : K[X]} (hp : Irreducible p)
-    (hp_splits : Splits (RingHom.id K) p) : p.degree = 1 := by
+    (hp_splits : Splits (p.map (RingHom.id K))) : p.degree = 1 := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:262]:
```suggestion
    (hp_splits : Splits p) : p.degree = 1 := by
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 46]
```diff
@@ -217,37 +219,37 @@ variable (i : K →+* L)
...
+    (hg : Splits (g.map i)) : Splits ((EuclideanDomain.gcd f g).map i) :=
   Polynomial.splits_of_splits_of_dvd i hg0 hg (EuclideanDomain.gcd_dvd_right f g)
 
 theorem splits_mul_iff {f g : K[X]} (hf : f ≠ 0) (hg : g ≠ 0) :
-    (f * g).Splits i ↔ f.Splits i ∧ g.Splits i :=
+    ((f * g).map i).Splits ↔ (f.map i).Splits ∧ (g.map i).Splits :=
   ⟨splits_of_splits_mul i (mul_ne_zero hf hg), fun ⟨hfs, hgs⟩ => splits_mul i hfs hgs⟩
 
 theorem splits_prod_iff {ι : Type u} {s : ι → K[X]} {t : Finset ι} :
-    (∀ j ∈ t, s j ≠ 0) → ((∏ x ∈ t, s x).Splits i ↔ ∀ j ∈ t, (s j).Splits i) := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:250]: We can get rid of `i` in all of these.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 47]
```diff
@@ -40,80 +40,82 @@ variable (i : K →+* L)
...
 
-theorem splits_mul {f g : K[X]} (hf : Splits i f) (hg : Splits i g) : Splits i (f * g) := by
+theorem splits_mul {f g : K[X]} (hf : Splits (f.map i)) (hg : Splits (g.map i)) :
+    Splits ((f * g).map i) := by
   simp [Splits, hf.mul hg]
 
-theorem splits_of_splits_mul' {f g : K[X]} (hfg : (f * g).map i ≠ 0) (h : Splits i (f * g)) :
-    Splits i f ∧ Splits i g := by
+theorem splits_of_splits_mul' {f g : K[X]} (hfg : (f * g).map i ≠ 0) (h : Splits ((f * g).map i)) :
+    Splits (f.map i) ∧ Splits (g.map i) := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:76]: We can get rid of `i` here.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 48]
```diff
@@ -40,80 +40,82 @@ variable (i : K →+* L)
...
   simp only [Splits, Polynomial.map_mul, mul_ne_zero_iff] at hfg h
   exact (factors_mul_iff hfg.1 hfg.2).mp h
 
 theorem splits_map_iff {L : Type*} [CommRing L] (i : K →+* L) (j : L →+* F) {f : K[X]} :
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:80]:
```suggestion
theorem splits_map_map_iff {L : Type*} [CommRing L] (i : K →+* L) (j : L →+* F) {f : K[X]} :
```

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 49]
```diff
@@ -40,80 +40,82 @@ variable (i : K →+* L)
...
   rw [Finset.forall_mem_insert] at ht; rw [Finset.prod_insert hat]
   exact splits_mul i ht.1 (ih ht.2)
 
-theorem splits_pow {f : K[X]} (hf : f.Splits i) (n : ℕ) : (f ^ n).Splits i := by
+theorem splits_pow {f : K[X]} (hf : (f.map i).Splits) (n : ℕ) : ((f ^ n).map i).Splits := by
   rw [← Finset.card_range n, ← Finset.prod_const]
   exact splits_prod i fun j _ => hf
 
-theorem splits_X_pow (n : ℕ) : (X ^ n).Splits i :=
+theorem splits_X_pow (n : ℕ) : ((X ^ n).map i).Splits :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:107]: All of these can get rid of the `i`.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 50]
```diff
@@ -40,80 +40,82 @@ variable (i : K →+* L)
...
   splits_pow i (splits_X i) n
 
-theorem splits_id_iff_splits {f : K[X]} : (f.map i).Splits (RingHom.id L) ↔ f.Splits i := by
+theorem splits_id_iff_splits {f : K[X]} :
+    ((f.map i).map (RingHom.id L)).Splits ↔ (f.map i).Splits := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:111]: This can be deprecated.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 51]
```diff
@@ -40,80 +40,82 @@ variable (i : K →+* L)
...
   rw [splits_map_iff, RingHom.id_comp]
 
 variable {i}
 
 -- TODO: Prove the analogous composition theorems for `Factors`
 theorem Splits.comp_of_map_degree_le_one {f : K[X]} {p : K[X]} (hd : (p.map i).degree ≤ 1)
-    (h : f.Splits i) : (f.comp p).Splits i := by
+    (h : (f.map i).Splits) : ((f.comp p).map i).Splits := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:118]: We should be able to get rid of `i` here.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 52]
```diff
@@ -141,7 +143,7 @@ theorem Splits.comp_of_map_degree_le_one {f : K[X]} {p : K[X]} (hd : (p.map i).d
         natDegree_X_sub_C, mul_one] at this
 
 theorem splits_iff_comp_splits_of_degree_eq_one {f : K[X]} {p : K[X]} (hd : (p.map i).degree = 1) :
-    f.Splits i ↔ (f.comp p).Splits i := by
+    (f.map i).Splits ↔ ((f.comp p).map i).Splits := by
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:146]: We can get rid of `i` here.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 53]
```diff
@@ -162,45 +164,45 @@ This is a weaker variant of `Splits.comp_of_map_degree_le_one`,
...
+    (h : (f.map i).Splits) : ((f.comp (X - C a)).map i).Splits :=
   Splits.comp_of_degree_le_one (degree_X_sub_C_le _) h
 
 theorem Splits.comp_X_add_C (a : K) {f : K[X]}
-    (h : f.Splits i) : (f.comp (X + C a)).Splits i :=
+    (h : (f.map i).Splits) : ((f.comp (X + C a)).map i).Splits :=
   Splits.comp_of_degree_le_one (by simpa using degree_X_sub_C_le (-a)) h
 
-theorem Splits.comp_neg_X {f : K[X]} (h : f.Splits i) : (f.comp (-X)).Splits i :=
+theorem Splits.comp_neg_X {f : K[X]} (h : (f.map i).Splits) : ((f.comp (-X)).map i).Splits :=
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:178]: We can get rid of `i` here.

File: Mathlib/Algebra/Polynomial/Splits.lean [hunk 54]
```diff
@@ -162,45 +164,45 @@ This is a weaker variant of `Splits.comp_of_map_degree_le_one`,
...
 
-theorem natDegree_eq_card_roots' {p : K[X]} {i : K →+* L} (hsplit : Splits i p) :
+theorem natDegree_eq_card_roots' {p : K[X]} {i : K →+* L} (hsplit : Splits (p.map i)) :
     (p.map i).natDegree = Multiset.card (p.map i).roots :=
   hsplit.natDegree_eq_card_roots
 
 theorem degree_eq_card_roots' {p : K[X]} {i : K →+* L} (p_ne_zero : p.map i ≠ 0)
-    (hsplit : Splits i p) : (p.map i).degree = Multiset.card (p.map i).roots := by
+    (hsplit : Splits (p.map i)) : (p.map i).degree = Multiset.card (p.map i).roots := by
   simp [degree_eq_natDegree p_ne_zero, natDegree_eq_card_roots' hsplit]
```
Comment (Vierkantor) [inline Mathlib/Algebra/Polynomial/Splits.lean:206]: Although we have `eval₂` here, I still think it's worth getting rid of the `i`.

**Review by Vierkantor — COMMENTED** [review]
I went through the diff and marked all the places where we should (probably in a series of follow-up PRs) get rid of the `.map`. If we ignore that bit, it all looks very good to me. Thanks!

**Review by Vierkantor — COMMENTED** [review]
I went through the diff and marked all the places where we should (probably in a series of follow-up PRs) get rid of the `.map`. If we ignore that bit, it all looks very good to me. Thanks!

File: Mathlib/Algebra/Polynomial/Splits.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Algebra/Polynomial/Splits.lean:69]: I think follow-ups, but it depends on how easy it is for you to review if we mix such changes into this PR.
Currently the only refactor that isn't just for removing the `RingHom` argument is dropping the `RingHom` from `splits_zero` and `splits_C` to satisfy the simpNF linter.

Comment (tb65536) [reply Mathlib/Algebra/Polynomial/Splits.lean:69]: Yeah, I think leaving this for the follow-up PRs where we switch over the Factors makes sense (and actually, many of the desired changes to the API in Splits.lean are already reflected in the API in Factors.lean).

**Review by Vierkantor — APPROVED** [review]
Alright, since this has had a week to be looked at, and the consensus is very clearly in favour of the current state of the PR, let's merge this!

bors r+
